US08975254B2
(S)—N4-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-N2,N2-dimethylthiazole-2,4-dicarboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)thiazole-2-carboxylic acid (0.2 g, 0.340 mmol) and dimethylamine hydrochloride (0.023 g, 0.283 mmol). The product was purified by Flash-chromatography and triturated using diethyl ether, respectively. Yield 4.18%. 1H-NMR (400 MHz; CDCl3): δ 1.27 (d, 3H), 2.51 (s, 3H), 3.09 (s, 3H), 3.24 (s, 3H), 4.23 (dd, 1H), 4.45 (dd, 1H), 4.62 (m, 1H), 6.41 (d, 1H), 7.48 (d, 1H), 7.51 (d, 1H), 7.54 (dd, 1H), 7.85 (d, 1H), 8.27 (s, 1H).

reactant | (S)-4-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)thiazole-2-carboxylic acid | 0.340 mmol, 0.2 g | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(=O)O)C | C19H16ClN5O3S
reactant | dimethylamine hydrochloride | 0.283 mmol, 0.023 g | Cl.CNC
product | (S)—N4-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-N2,N2-dimethylthiazole-2,4-dicarboxamide | Yield 4.18% | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(=O)N(C)C)C | C21H21ClN6O2S
